US09314023B2
A mixture of 1-(2-bromomethyl-3-bromophenyl)-4-methyl-1,4-dihydrotetrazole-5-one 45.0 g, sodium methoxide 37.4 g and tetrahydrofuran 600 ml was stirred at room temperature for three hours. To the reaction mixture was added aqueous saturated sodium bicarbonate solution and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with aqueous saturated sodium bicarbonate solution and was dried over anhydrous magnesium sulfate. The resulting mixture was concentrated under reduced pressure to give 1-(2-methoxymethyl-3-bromophenyl)-4-methyl-1,4-dihydrotetrazole-5-one 36.2 g.

reactant | 1-(2-bromomethyl-3-bromophenyl)-4-methyl-1,4-dihydrotetrazole-5-one | 45.0 g | BrCC1=C(C=CC=C1Br)N1N=NN(C1=O)C | C9H8Br2N4O
reactant | sodium methoxide | 37.4 g | C[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 1-(2-methoxymethyl-3-bromophenyl)-4-methyl-1,4-dihydrotetrazole-5-one | 36.2 g | COCC1=C(C=CC=C1Br)N1N=NN(C1=O)C | C10H11BrN4O2
